US07033807B2
Cell membrane fractions derived from insect cells transfected with recombinant baculoviruses expressing 11-hydroxylase and complementary electron transport proteins were analyzed for 11-hydroxylase activity in a reaction mixture containing 80 mM phosphate buffer, pH 7.4, 8 mM MgCl2, and 0.9 mM NADP+ in a final volume of 200 ul. In order to insure an adequate source of reducing equivalents, an NADPH regenerating system was provided by adding glucose-6-phosphate dehydrogenase (1.5 U/ml) and 8 mM glucose-6-phosphate. Steroid substrate (e.g., androstenedione) was provided at a final concentration of 0.3 mM. Reaction mixtures were incubated at 37° C. for 30 min. The reactions were terminated by the addition of 200 ul methanol and then placed on ice. Samples were pelleted by centrifugation to remove precipitated protein.

reactant | phosphate | 80 mM | P(=O)([O-])([O-])[O-]
reactant | MgCl2 | 8 mM, pH 7.4 | [Mg+2].[Cl-].[Cl-]
reactant | NADP+ | 0.9 mM | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
product | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
